US05166151
Preparation of 5-oximino-7-phenyl-5H-pyrimido[5,4-d]-[2]benzazepine (44, X1 =H, R2 =Ph, W=CH, Y=N, Z=CH).
To a suspension of potassium tert-butoxide (24.9 g, 222 mmole) in 600 ml of dry tetrahydrofuran is added 200 ml of dry tert-butylalcohol at -20° C. under nitrogen. To this solution is then added, via addition funnel, 7-phenyl-5H-pyrimido[5,4-d][2]-benzazepine (25 g) in 260 ml of tetrahydrofuran. The resulting solution is stirred for about 2 hours at -20° C. and treated with 17.4 ml (130 mmole) of isoamyl nitrite. The reaction mixture is warmed to 0° C. over approximately 15 minutes and quenched with the addition of 60 ml of cold water and 20 ml of glacial acetic acid. All solvents are removed under reduced pressure and the residue is partitioned between ethyl acetate (600 ml) and brine (100 ml). The phases are separated and the organic extracts are dried (Na2SO4), concentrated, and triturated with ether.

reactant | potassium tert-butoxide | 222 mmole, 24.9 g | CC(C)([O-])C.[K+]
reactant | tert-butylalcohol | 200 ml | C(C)(C)(C)O | C4H10O
reactant | 7-phenyl-5H-pyrimido[5,4-d][2]-benzazepine | 25 g | C1(=CC=CC=C1)C1=NCC2=C(C3=C1C=CC=C3)N=CN=C2 | C18H13N3
reactant | isoamyl nitrite | 130 mmole, 17.4 ml | N(=O)OCCC(C)C | C5H11NO2
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 260 ml | O1CCCC1 | C4H8O
product | 5-oximino-7-phenyl-5H-pyrimido[5,4-d]-[2]benzazepine | N(O)=C1N=C(C2=C(C3=C1C=NC=N3)C=CC=C2)C2=CC=CC=C2 | C18H12N4O
